### PR TITLE
[Merged by Bors] - feat(Probability): expectation of a binomial random variable

### PR DESCRIPTION
**Pull request by LLaurance**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by EtienneC30** [comment]
maintainer merge

File: Mathlib/Probability/Distributions/Binomial.lean [hunk 1]
```diff
@@ -187,7 +187,22 @@ variable {X : Ω → ℝ}
 /-- **Expectation of a binomial random variable**.
 
 The expectation of a binomial random variable with parameters `n` and `p` is `pn`. -/
-proof_wanted integral_of_hasLaw_binomial (hX : HasLaw X Bin(ℝ, n, p) P) : P[X] = p.val * n
+theorem integral_of_hasLaw_binomial (hX : HasLaw X Bin(ℝ, n, p) P) : P[X] = p.val * n := by
+  rw [hX.integral_eq, integral_map_cast_binomial,
+    show .Iic n = (Finset.Iio 0).disjUnion (Finset.range (n + 1)) (by simp) by grind,
+    Finset.sum_disjUnion, Finset.sum_range_succ']
```
Comment (ocfnash) [inline Mathlib/Probability/Distributions/Binomial.lean]: This is a very weird line (presumably produced by a tree-searchy AI) since `Finset.Iio 0` is the empty set. I think we should write:
```suggestion
  rw [hX.integral_eq, integral_map_cast_binomial, ← n.range_succ_eq_Iic, Finset.sum_range_succ']
```

**Review by ocfnash — APPROVED** [review]
Thanks!

**Comment by ocfnash** [comment]
bors merge

File: Mathlib/Probability/Distributions/Binomial.lean (hunk 1 above)
Comment (LLaurance) [reply Mathlib/Probability/Distributions/Binomial.lean]: Hello, I did not use any AI. I do not recall but I may have missed `range_succ_eq_Iic`.
